US08476434B2
Synthesis of 4-(3-(pyrimidin-4-yl)pyridin-2-yloxy)benzoic acid
A mixture of 4-(2-chloro-pyridin-3-yl)-pyrimidine, 4-hydroxy-benzoic acid and Cs2CO3 in DMSO was heated in a microwave (Personal Chemistry, Emrys Optimizer) at 200° C. for 10 minutes. The reaction mixture was cooled to RT and diluted with 60 mL of EtOAc. The product was precipitated from the solution. The mixture was then washed with 20 mL of water twice. The solid was collected by filtration and dried in an oven at 50° C. to afford off white solid as desired product. MS m/z=294 [M+1]+. Calc'd for C16H11N3O3: 293.28.

reactant | 4-(2-chloro-pyridin-3-yl)-pyrimidine | ClC1=NC=CC=C1C1=NC=NC=C1 | C9H6ClN3
reactant | 4-hydroxy-benzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | 4-(3-(pyrimidin-4-yl)pyridin-2-yloxy)benzoic acid | N1=CN=C(C=C1)C=1C(=NC=CC1)OC1=CC=C(C(=O)O)C=C1 | C16H11N3O3
